US06696476B2
Step A: 6-Allyloxy-1H-indazole
To a solution of 1H-indazol-6-ol (20.0 g, 150 mmol) in acetone (450 mL) was added pulverized potassium carbonate (22.4 g, 162 mmol), cesium carbonate (2.00 g, 5.7 mmol), and allyl iodide (14.63 mL, 160 mmol) and the mixture was stirred for 18 h at ambient temperature. Additional potassium carbonate (5.00 g, 36 mmol) and allyl iodide (1.4 mL, 15 mmol) were added and the mixture was stirred for 2 h followed filtration. Water (200 mL) was added to the filtrate and the volume of the mixture was reduced by about half in vacuo and extracted with dichloromethane (2×100 mL). The combined extracts were dried (MgSO4) and evaporated to a residue which was purified by chromatography (silica, 20% to 50% EtOAc/hexane) to give a yellow solid (14.7 g, 56%): mp 110-112° C.; LC/MS (+APCI) m/z 175 (M+H). Unreacted starting material was recovered (4.71 g).

reactant | 1H-indazol-6-ol | 150 mmol, 20.0 g | N1N=CC2=CC=C(C=C12)O | C7H6N2O
reactant | potassium carbonate | 162 mmol, 22.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl iodide | 160 mmol, 14.63 mL | C(C=C)I | C3H5I
reactant | potassium carbonate | 36 mmol, 5.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl iodide | 15 mmol, 1.4 mL | C(C=C)I | C3H5I
solvent | acetone | 450 mL | CC(=O)C | C3H6O
catalyst | cesium carbonate | 5.7 mmol, 2.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 6-Allyloxy-1H-indazole | 14.7 g, 56% | C(C=C)OC1=CC=C2C=NNC2=C1 | C10H10N2O
